US05852016
(b) 1,4-Dihydro-6-chloro-7-trifluoromethylquinoxalin-2,3-dione
A mixture of 1,2-diamino-4-chloro-5-trifluoromethylbenzene (13.4 g, 63.6 mmol) and diethyl oxalate (100 ml) was heated at reflux under nitrogen with stirring for 5 h. After being cooled, the solid which formed was filtered off and washed well with ether to afford a pale orange solid (14.5 g, 86%).

reactant | 1,2-diamino-4-chloro-5-trifluoromethylbenzene | 63.6 mmol, 13.4 g | NC1=C(C=C(C(=C1)C(F)(F)F)Cl)N | C7H6ClF3N2
reactant | diethyl oxalate | 100 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 1,4-Dihydro-6-chloro-7-trifluoromethylquinoxalin-2,3-dione | 14.5 g, 86% | ClC=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C9H4ClF3N2O2
